US08076517B2
(R)-(+)-methyl p-tolyl sulfoxide (0.5 g, 3.21 mmoles) and tetrabutylammonium triphenyl-difluorosilicate (TBAT) (0.12 g, 0.214 mmoles) were dissolved in 0.038 mL of 2-methyl-2-butene and 2.4 mL of anhydrous methylene chloride under nitrogen and with magnetic stirring. Allyltrichlorosilane (0.23 mL, 1.61 mmoles) was added at −78° C. and the reaction was stirred for 15 minutes. 4-ethyl-benzoic acid (1-methyl-3-phenyl-propylidene)hydrazide (0.3 g, 1.07 mmoles) was dissolved in 11.6 mL of anhydrous methylene chloride and added to the reaction over a period of 30 minutes. The reaction mixture was stirred for 5 hours under nitrogen and maintained at −78° C. to −70° C., with TLC monitoring. The reaction was quenched with 1.5 mL triethylamine and 3 mL anhydrous methanol at −78° C. Brine was then added and the mixture was allowed to warm to room temperature. The organic layer was removed, combined with three methylene chloride extractions, and dried over sodium sulfate. The solvent was evaporated, and the crude mixture was purified by flash chromatography using a step gradient of 2:1 and 1:1 pentane:ethyl acetate. Purified (R)-4-ethyl-benzoic acid N′-(1-phenethyl-but-3-enyl)-hydrazide was obtained as a clear oil (0.145 g, 41.4% yield, 57.6% ee by chiral HPLC on Chiralcel ADH). Rf=0.50 (1:1 EtOAc:n-hexane); 1H NMR (400 MHz, CDCl3) δ 7.64-7.13 (m, 9H), 5.91 (m, 1H), 5.15 (t, J=28.0 Hz, 2H), 3.12 (m, 1H), 2.76-2.63 (m, 4H), 2.38-2.24 (m, 2H), 1.88-1.74 (m, 2H), 1.23 (t, J=8.0 Hz, 3H).

reactant | (R)-(+)-methyl p-tolyl sulfoxide | 3.21 mmoles, 0.5 g | C1(=CC=C(C=C1)[S@](=O)C)C | C8H10OS
reactant | Allyltrichlorosilane | 1.61 mmoles, 0.23 mL | C(C=C)[Si](Cl)(Cl)Cl | C3H5Cl3Si
reactant | 4-ethyl-benzoic acid (1-methyl-3-phenyl-propylidene)hydrazide | 1.07 mmoles, 0.3 g | CC(CCC1=CC=CC=C1)=NNC(C1=CC=C(C=C1)CC)=O | C19H22N2O
solvent | 2-methyl-2-butene | 0.038 mL | CC(C)=CC | C5H10
solvent | methylene chloride | 11.6 mL | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 2.4 mL | C(Cl)Cl | CH2Cl2
product | (R)-4-ethyl-benzoic acid N′-(1-phenethyl-but-3-enyl)-hydrazide | 41.4% yield | C(CC1=CC=CC=C1)[C@H](CC=C)NNC(C1=CC=C(C=C1)CC)=O | C21H26N2O
